US05660985
To a suspension of 2'-amino,2'-deoxyuridine (2.0 g, 8.22 mmoles) in methanol (150 ml) was added S-ethyl trifluorothioacetate (1.6 ml, 12.48 mmoles, 1.5 eq.). This mixture was stirred at room temperature overnight. Nitrogen was bubbled through the reaction mixture for 2 h to remove volatile thio-byproducts. The mixture was evaporated to dryness and the solid was recrystallized from methanol/chloroform to yield 2.3 g (82%) of 2'-trifluoroacetylamino, 2'-deoxyuridine. The analytical data agreed with the literature (Imazawa and Eckstein (1979) supra).

reactant | 2'-amino,2'-deoxyuridine | 8.22 mmoles, 2.0 g | N[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C9H13N3O5
reactant | S-ethyl trifluorothioacetate | 12.48 mmoles, 1.6 ml, 1.5 eq. | FC(C(=O)SCC)(F)F | C4H5F3OS
solvent | methanol | 150 ml | CO | CH4O
product | 2'-deoxyuridine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
